US07071201B2
Example 32: Synthesis of 1-[1-(4-acetamidophenethyl)piperidin-4-yl]indoline
1-[1-(4-Aminophenethyl)piperidin-4-yl]indoline (310 mg) was dissolved in methylene chloride (3 ml). Under ice cooling, acetyl chloride (0.103 ml) was added to the resultant solution followed by stirring the obtained mixture for 45 min. After adding a 10% aqueous solution of potassium carbonate, the reaction solution was extracted with ethyl acetate. Then the organic layer was washed with brine and dried over magnesium sulfate. After evaporating the solvent, the resulting residue was purified by NH-silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (200 mg) as an oil.

reactant | 1-[1-(4-Aminophenethyl)piperidin-4-yl]indoline | 310 mg | NC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C21H27N3
reactant | acetyl chloride | 0.103 ml | C(C)(=O)Cl | C2H3ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 1-[1-(4-acetamidophenethyl)piperidin-4-yl]indoline | 200 mg | C(C)(=O)NC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C23H29N3O
